US07838483B2
Small scale: Ethylene glycol (1 g, 16.1 mmol) was mixed with Triton B (40% in MeOH, 0.22 g, 0.53 mmol) and cooled in an ice-bath, while acrylonitrile (1.71 g 32.2 mmol) was added. The mixture was stirred at room temperature for 60 hours after which it was neutralized with 0.1 M HCl (0.6 cm3) and extracted with CH2Cl2 (80 cm3). The extracts were concentrated under reduced pressure, and the residue was Kugelrohr-distilled to give 3,3′-(ethane-1,2-diylbis(oxy))dipropanenitrile (1.08 g, 39.9%) as a light coloured oil, bp 150-170° C./20 Torr.

reactant | Ethylene glycol | 16.1 mmol, 1 g | C(CO)O | C2H6O2
reactant | acrylonitrile | 32.2 mmol, 1.71 g | C(C=C)#N | C3H3N
reactant | HCl | 0.1 M, 0.6 cm3 | Cl | ClH
solvent | MeOH | CO | CH4O
product | 3,3′-(ethane-1,2-diylbis(oxy))dipropanenitrile | 1.08 g, 39.9% | C(COCCC#N)OCCC#N | C8H12N2O2
